OpenCircuit factory test: BC547B fT
* OpenCircuit Model Factory v0.1.0
* Original work generated from public factual specifications.
* This model is not a copy of, or adaptation from, any vendor SPICE model.
* Source: https://www.onsemi.com/pub/Collateral/BC546-D.PDF
* Revision: Rev. 8, August 2021
* Fit: native ngspice-46 in scipy.optimize.least_squares, diff_step=1e-4
.model OC_ONSEMI_BC547B NPN(IS=1.2001010412e-13 NF=1.0000000000e0 BF=1.9999999995e3 IKF=8.5286671868e-3 ISE=5.1618435077e-13 NE=1.5645721464e0 VAF=1.0000000000e2 BR=4.0000000000e0 RB=2.0371167871e1 RE=1.0000002393e-4 RC=8.6260701194e-1 CJE=1.1836139835e-11 VJE=7.5000000000e-1 MJE=3.3000000000e-1 CJC=4.0930165213e-12 VJC=7.5000000000e-1 MJC=3.3000000000e-1 XCJC=1.0000000000e0 TF=4.8605929192e-10 TR=0 FC=0.5 EG=1.11 XTI=3 TNOM=27)

.temp 25
VCC c 0 DC 5.0000000000e0
IBDC 0 b DC 6.6666666667e-5
IAC 0 b AC 1
Q1 c b 0 OC_ONSEMI_BC547B
.ac dec 20 1Meg 10G
.end
